US05236952
0.5 g of 3,4-dimethoxy-5-nitrobenzophenone is stirred at 100° for 30 hours in a mixture of 4 ml of acetic acid and 4 ml of 48 percent aqueous hydrobromic acid. The reaction mixture is subsequently evaporated to dryness. The residue is taken up in methylene chloride. It is washed with water, dried over sodium sulfate and evaporated. After recrystallization from methylene chloride/hexane there is obtained 3,4-dihydroxy-5-nitrobenzophenone of m.p. 132°.

reactant | 3,4-dimethoxy-5-nitrobenzophenone | 0.5 g | COC=1C=C(C(=O)C2=CC=CC=C2)C=C(C1OC)[N+](=O)[O-] | C15H13NO5
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | hydrobromic acid | 4 ml | Br | BrH
product | 3,4-dihydroxy-5-nitrobenzophenone | OC=1C=C(C(=O)C2=CC=CC=C2)C=C(C1O)[N+](=O)[O-] | C13H9NO5
